US09371320B2
3-(cyclohex-1-en-1-yl)-1-cyclopentyl-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one
To a solution (1.0 mL) of 1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate (29.2 mg) obtained in Step C of Example 12, 2-(cyclohex-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (16.7 mg) and tetrakistriphenylphosphine palladium (18.5 mg) in DME was added 2N sodium carbonate (120 μl), and the mixture was reacted at 100° C. for 6 hr. To the reaction mixture were added ethyl acetate (4 mL), THF (1 mL) and water (1 mL), the mixture was stirred for 5 min, and the organic layer was separated, and concentrated by air-blowing. The residue was purified by preparative high-performance liquid chromatography (C18, mobile phase: acetonitrile/10 mM aqueous ammonium bicarbonate solution) to give 3-(cyclohex-1-en-1-yl)-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridine. A solution (1.0 mL) of chloro(trimethyl)silane (10.2 μl) and sodium iodide (12.0 mg) in acetonitrile was added to 3-(cyclohex-1-en-1-yl)-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridine, and the mixture was reacted at 60° C. for 1 hr. To the reaction mixture were added ethyl acetate (4 mL), THF (1 mL) and water (1 mL), the mixture was stirred for 5 min, and the organic layer was separated, and concentrated by air-blowing. The residue was purified by preparative high-performance liquid chromatography (C18, mobile phase: acetonitrile/10 mM aqueous ammonium bicarbonate solution) to give the title compound (13.0 mg).

reactant | chloro(trimethyl)silane | 1.0 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium iodide | 12.0 mg | [I-].[Na+]
reactant | 3-(cyclohex-1-en-1-yl)-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridine | C1(=CCCCC1)C1=NN(C2=C1C(=NC=C2)OC)C2CCCC2 | C18H23N3O
reactant | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 1 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-(cyclohex-1-en-1-yl)-1-cyclopentyl-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one | 13.0 mg | C1(=CCCCC1)C1=NN(C2=C1C(NC=C2)=O)C2CCCC2 | C17H21N3O
